US06248755B1
Step F: 1-t-Butyloxycarbonyl-4-(2-benzyl-thiazol-5-yl)piperidine
A mixture of 1-t-butyloxycarbonyl-4-(2-phenylacetamido)acetyl-piperidine (595 mg, 1.653 mmol) and Lawesson's reagent (607 mg, 1.66 mmol) in 5 mL of toluene was heated at 120° C. for 3.5 hr. After cooling, 3:1 mixture of EtOAc and CH2Cl2 and saturated NaHCO3 solution were added and the mixture was stirred for 0.5 hr. The organic phase was separated and washed with brine. Solvent removal gave a crude product which was purified on silica gel using 2:3 mixture of EtOAc-hexane as solvent to give 330 mg of the desired product. 1H NMR (CDCl3): 1.45(9H,s); 1.58 (m, 2H), 1.95 (m, 2H), 2.74˜3.0 (m, 3H),4.2 (m, 2H) 4.4 (s, 2H). 7.46(s, 1H).

reactant | 1-t-butyloxycarbonyl-4-(2-phenylacetamido)acetyl-piperidine | 1.653 mmol, 595 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CNC(CC1=CC=CC=C1)=O)=O | C20H28N2O4
reactant | Lawesson's reagent | 1.66 mmol, 607 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-t-Butyloxycarbonyl-4-(2-benzyl-thiazol-5-yl)piperidine | 330 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CN=C(S1)CC1=CC=CC=C1 | C20H26N2O2S
